US09108944B2
Ethyl 2-(4-(4-(7-(6-cyano-5-(trifluoromethyl)pyridin-3-yl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-5-yl)phenoxy)piperidin-1-yl)acetate
The title compound was synthesized as described in Example 27 using 5-(8-oxo-5-(4-(piperidin-4-yloxy)phenyl)-6-thioxo-5,7-diazaspiro[3.4]octan-7-yl)-3-(trifluoromethyl)picolinonitrile and ethyl 2-bromoacetate as starting materials. LCMS [M+1]+ 588.1.

reactant | 5-(8-oxo-5-(4-(piperidin-4-yloxy)phenyl)-6-thioxo-5,7-diazaspiro[3.4]octan-7-yl)-3-(trifluoromethyl)picolinonitrile | O=C1N(C(N(C12CCC2)C2=CC=C(C=C2)OC2CCNCC2)=S)C=2C=C(C(=NC2)C#N)C(F)(F)F | C24H22F3N5O2S
reactant | ethyl 2-bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | Ethyl 2-(4-(4-(7-(6-cyano-5-(trifluoromethyl)pyridin-3-yl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-5-yl)phenoxy)piperidin-1-yl)acetate | C(#N)C1=C(C=C(C=N1)N1C(N(C2(CCC2)C1=O)C1=CC=C(OC2CCN(CC2)CC(=O)OCC)C=C1)=S)C(F)(F)F | C28H28F3N5O4S
